US06974806B2
(4-Chloro-2-hydroxy-5-methylphenyl)(pyridin-3-yl)methanone
A solution of 3-pyridinecarbaldehyde (2.2 g) in THF (50 ml) was treated dropwise with a solution (50 ml) of Grignard reagent prepared from 1-bromo-4-chloro-2-methoxy-5-methylbenzene (5.0 g) and magnesium (0.8 g) in THF at 0° C., and stirred for 1 hour. The reaction solution was combined with a saturated aqueous solution of ammonium chloride, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The resultant residue was used in the next step without purification, combined with toluene (150 ml) and manganese dioxide (15 g), and heated under reflux with dehydrating using Deen Stark for 1 hour. After the reaction was completed, the reaction solution was filtered using celite, the filtrate was concentrated under reduced pressure. The resultant residue was combined with methylene chloride (50 ml) and a 1 N solution of BBr3/methylene chloride (60 ml), and stirred at room temperature overnight. After the reaction was completed, water was added, and the solvent was distilled off under reduced pressure. The resultant residue was neutralized with the addition of a saturated aqueous solution of sodium hydrogen carbonate, and then extracted with ethyl acetate. The extract was washed with water, and then dried over magnesium sulfate, and concentrated under reduced pressure. The resultant residue was purified by a silica gel column (eluent: ethyl acetate) to obtain the title compound as an oil (2.4 g).

reactant | 3-pyridinecarbaldehyde | 2.2 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1-bromo-4-chloro-2-methoxy-5-methylbenzene | 5.0 g | BrC1=C(C=C(C(=C1)C)Cl)OC | C8H8BrClO
reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (4-Chloro-2-hydroxy-5-methylphenyl)(pyridin-3-yl)methanone | 2.4 g | ClC1=CC(=C(C=C1C)C(=O)C=1C=NC=CC1)O | C13H10ClNO2
